US08871782B2
A modification of the method described in Part K of Example 45 was followed using N-{4-[4-amino-7-(6-aminohexyloxy)-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}methanesulfonamide (0.86 g, 1.8 mmol) as the starting material. Methanesulfonic anhydride (470 mg, 2.7 mmol) was added over a period of 24 hours. The crude product was purified by column chromatography on silica gel (eluting sequentially with 90:10 and 85:15 dichloromethane:methanol), recrystallization from ethyl acetate, and a second recrystallization from 2-propanol to provide 0.38 g of N-(4-{4-amino-7-[6-(methanesulfonylamino)hexyloxy]-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl}butyl)methanesulfonamide as a white powder, mp 138-140° C.

reactant | N-{4-[4-amino-7-(6-aminohexyloxy)-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}methanesulfonamide | 1.8 mmol, 0.86 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)CCC)OCCCCCCN | C24H38N6O3S
reactant | Methanesulfonic anhydride | 2.7 mmol, 470 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
product | N-(4-{4-amino-7-[6-(methanesulfonylamino)hexyloxy]-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl}butyl)methanesulfonamide | 0.38 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)CCC)OCCCCCCNS(=O)(=O)C | C25H40N6O5S2
